US05962682
3.5 g of methyl 3-nitro-4-(3-methoxy-phenoxy)-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzoate were dissolved in methanol (100 ml), treated with 0.5 g of Ra--Ni catalyst and hydrogenated at room temperature for 1 hour. The catalyst was filtered off and the solution was concentrated on a rotary evaporator. There was thus obtained the desired methyl 3-amino-4-(3-methoxy-phenoxy)-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzoate as a pale yellow solid.

reactant | methyl 3-nitro-4-(3-methoxy-phenoxy)-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzoate | 3.5 g | [N+](=O)([O-])C=1C=C(C(=O)OC)C=C(C1OC1=CC(=CC=C1)OC)OCCOC1OCCCC1 | C22H25NO9
solvent | methanol | 100 ml | CO | CH4O
catalyst | Ni | [Ni] | Ni
product | methyl 3-amino-4-(3-methoxy-phenoxy)-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzoate | NC=1C=C(C(=O)OC)C=C(C1OC1=CC(=CC=C1)OC)OCCOC1OCCCC1 | C22H27NO7
